US07897788B2
A-b) 1-Ethoxycarbonylmethyl-3-pyrrolidin-1-ylmethylene-3H-indolium bromide
Ethyl bromoacetate (6.1 ml, 55.4 mmol) was added dropwise to a stirred solution of 3-pyrrolidin-1-yl-methylene-3H-indole (10 g, 50.4 mmol) in EtOH (40 ml) and the reaction mixture was kept stirring at rt overnight. The solid was filtered off, washed with small portions of EtOH and then dried in vacuo, affording title compound (17 g) as a beige solid in 93% yield. tR (LC-1): 1.45 min; ESI-MS(+): m/z 285.31 [M]+ (calcd 285.36 for C17H21BrN2O2+).

reactant | Ethyl bromoacetate | 55.4 mmol, 6.1 ml | BrCC(=O)OCC | C4H7BrO2
reactant | 3-pyrrolidin-1-yl-methylene-3H-indole | 50.4 mmol, 10 g | N1(CCCC1)C1C(NC2=CC=CC=C12)=C | C13H16N2
reactant | EtOH | 40 ml | CCO | C2H6O
product | 1-Ethoxycarbonylmethyl-3-pyrrolidin-1-ylmethylene-3H-indolium bromide | 17 g, 93% yield | [Br-].C(C)OC(=O)C[N+]1=CC(C2=CC=CC=C12)=CN1CCCC1 | InChI=1S/C17H21N2O2.BrH/c1-2-21-17(20)13-19-12-14(11-18-9-5-6-10-18)15-7-3-4-8-16(15)19;/h3-4,7-8,11-12H,2,5-6,9-10,13H2,1H3;1H/q+1;/p-1
